US08119663B2
Step b): Methyl 5-[3-methyl-4-(trifluoromethoxy)phenyl]pyridine-3-carboxylate
2.7 g (12.5 mmol) of methyl 5-bromonicotinate and 3.3 g (15.0 mmol) of [3-methyl-4-(trifluoromethoxy)phenyl]boronic acid were reacted according to the General Method 1A. Yield: 3.1 g (80% of theory)

reactant | methyl 5-bromonicotinate | 12.5 mmol, 2.7 g | BrC=1C=NC=C(C(=O)OC)C1 | C7H6BrNO2
reactant | [3-methyl-4-(trifluoromethoxy)phenyl]boronic acid | 15.0 mmol, 3.3 g | CC=1C=C(C=CC1OC(F)(F)F)B(O)O | C8H8BF3O3
product | Methyl 5-[3-methyl-4-(trifluoromethoxy)phenyl]pyridine-3-carboxylate | CC=1C=C(C=CC1OC(F)(F)F)C=1C=C(C=NC1)C(=O)OC | C15H12F3NO3
